US07230006B2
1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-8-methoxy quinolone-3-carboxylic acid (100 grams), (S,S) Diazabicyclo nonane (60 grams) and 1,8-Diazabicyclo[5.4.0.]undec-7-ene(DBU) (10.gms) were added to N-Methylpyrolidinone (250 ml) and the reaction mixture was slowly heated to the 60–70° C. temperature and stirred till the reaction was substantially completed. 5% aqueous isopropyl alcohol was added to the reaction mass, and pH was adjusted towards basic with caustic lye. Then the reaction mass was filtered, through clarifying filter, washed with 5% aqueous isopropyl alcohol. Combined total filtrate and adjusted pH to 7.0 to 7.2 with aqueous Hcl. and isolated at a temperature of 10–15° C. to afford moxifloxacin. Moxifloxacin then treated with Hydrochloric acid in 10% aqueous methanol to yield corresponding hydrochloride salt. (Wet weight: 115 grams)

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-8-methoxy quinolone-3-carboxylic acid | 100 grams | C1(CC1)N1C(C(C(C2=CC(=C(C(=C12)OC)F)F)=O)C(=O)O)=O | C14H11F2NO5
reactant | N-Methylpyrolidinone | 250 ml | CN1C(CCC1)=O | C5H9NO
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | moxifloxacin | COC1=C2C(=CC(=C1N3C[C@@H]4CCCN[C@@H]4C3)F)C(=O)C(=CN2C5CC5)C(=O)O | C21H24FN3O4
